US08071625B2
To a solution of 3-(2-chlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea (120 mg, 0.50 mmol) in THF (1.0 mL) were added DMAP (3.0 mg, 0.02) and 2-isocyanatonaphthalene (100 mg, 0.60 mmol). The reaction mixture was stirred for 30 min. LC/MS indicated the completion of the reaction. The mixture was filtered and the filtrate was purified by RP-HPLC using a mixture of acetonitrile and H2O to give 2-(3-(2-chlorobenzyl)-1-methylureido)ethyl naphthalen-2-ylcarbamate (165 mg, 80%). LRMS (M-Boc+H+) m/z 412.1.

reactant | 3-(2-chlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea | 0.50 mmol, 120 mg | ClC1=C(CNC(N(C)CCO)=O)C=CC=C1 | C11H15ClN2O2
reactant | 2-isocyanatonaphthalene | 0.60 mmol, 100 mg | N(=C=O)C1=CC2=CC=CC=C2C=C1 | C11H7NO
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 3.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(3-(2-chlorobenzyl)-1-methylureido)ethyl naphthalen-2-ylcarbamate | 165 mg, 80% | C1=C(C=CC2=CC=CC=C12)NC(OCCN(C(=O)NCC1=C(C=CC=C1)Cl)C)=O | C22H22ClN3O3
